US07429609B2
3-Iodo-1-trityl-1H-pyrazolo[3,4-c]pyridine-5-carboxylic acid
To a suspension of 3.0 g of 3-iodo-1-trityl-1H-pyrazolo[3,4-c]pyridine-5-carbonitrile obtained by Production example 431 in 20 mL of ethanol was added 20 mL of 4N lithium hydroxide aqueous solution at room temperature, and heated at reflux for a day. After cooling to room temperature, the solution was neutralized with 5N hydrochloric acid aqueous solution, and the precipitated crystals were collected by filtration. The crystals were washed successively with water and diethyl ether, to afford 3.0 g of the title compound as colorless crystals.

reactant | 3-iodo-1-trityl-1H-pyrazolo[3,4-c]pyridine-5-carbonitrile | 3.0 g | IC1=NN(C2=CN=C(C=C21)C#N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H17IN4
reactant | lithium hydroxide | 4N, 20 mL | [OH-].[Li+]
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | 3-Iodo-1-trityl-1H-pyrazolo[3,4-c]pyridine-5-carboxylic acid | 3.0 g | IC1=NN(C2=CN=C(C=C21)C(=O)O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H18IN3O2
